US09382243B2
1-bromo-4-cyclobutoxy-2-fluorobenzene
4-bromo-3-fluorophenol (315 mg, 1.648 mmol), cyclobutyl 4-methyl-benzenesulfonate (373 mg, 1.648 mmol), and cesium carbonate (1074 mg, 3.30 mmol) were dissolved in DMSO (1648 μl) and heated to 60° C. overnight. The reaction mixture was diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 2% to 50% EtOAc:Hexane. 1H NMR δ (ppm) 7.4 (t, 1H), 6.10 (dd, 1H), 6.53 (dd, 1H), 4.60 (quintet, 1H), 2.49-2.43 (m, 2H), 2.21-2.13 (m, 2H), 1.93 (m, 1H), 1.73 (sextet, 1H).

reactant | 4-bromo-3-fluorophenol | 1.648 mmol, 315 mg | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | cyclobutyl 4-methyl-benzenesulfonate | 1.648 mmol, 373 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1CCC1 | C11H14O3S
reactant | cesium carbonate | 3.30 mmol, 1074 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 1648 μl | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-bromo-4-cyclobutoxy-2-fluorobenzene | BrC1=C(C=C(C=C1)OC1CCC1)F | C10H10BrFO
